US04362736
In a mixture of 15 ml of ethanol and 10 ml of chloroform was dissolved 0.5 g of N-cyano-3-[(2-guanidinothiazol-4-yl)-methylthio]propionamidine and after passing through the solution a dry hydrogen chloride gas for 1.5 hours under cooling by ice water, the reaction mixture was concentrated under reduced pressure. To the residue was added 10 ml of ethanol, the mixture was concentrated again under reduced pressure. The residue formed was dissolved in a small amount of ethanol and after adding thereto ether and allowing to stand overnight the mixture, the crystals deposited were collected by filtration to provide 0.55 g of N-carbamoyl-3-[(2-guanidinothiazol-4-yl)methylthio]propionamidine.di-hydrochloride. The product shows the following physicochemical properties:

reactant | N-cyano-3-[(2-guanidinothiazol-4-yl)-methylthio]propionamidine | 0.5 g | C(#N)NC(CCSCC=1N=C(SC1)NC(=N)N)=N | C9H13N7S2
reactant | hydrogen chloride | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-carbamoyl-3-[(2-guanidinothiazol-4-yl)methylthio]propionamidine | 0.55 g | C(N)(=O)NC(CCSCC=1N=C(SC1)NC(=N)N)=N | C9H15N7OS2
